US06444694B1
2,3-Dimethyl-5,6-dinitro-1,4-dimethoxybenzene (4.0 g; 15 mmol) in EtOH (120 mL) was heated to solution, and 10% palladium on charcoal (1.0 g) was added.. The reaction mixture was hydrogenated at 45 psig for 3 hours. After work-up, 2.41 g (83% yield) of 2,3-dimethyl-5,6-diamino-1,4-dimethoxybenzene was obtained as a yellow solid, m.p. 107-110° C.

reactant | 2,3-Dimethyl-5,6-dinitro-1,4-dimethoxybenzene | 15 mmol, 4.0 g | CC1=C(C(=C(C(=C1C)OC)[N+](=O)[O-])[N+](=O)[O-])OC | C10H12N2O6
solvent | EtOH | 120 mL | CCO | C2H6O
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
product | 2,3-dimethyl-5,6-diamino-1,4-dimethoxybenzene | 2.41 g, 83% yield | CC1=C(C(=C(C(=C1C)OC)N)N)OC | C10H16N2O2
